US07875606B2
A solution of 35.4 g (178.7 mmoles) of 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 500 ml of diethyl ether was cooled to −30° C. Thereto was added 54.0 g (199.5 mmoles) of phosphorus tribromide. The mixture was stirred at room temperature for 12 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water and extraction with diethyl ether was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain 31.4 g (yield: 80.8%) of 4-bromomethyl-5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole.

reactant | 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 178.7 mmoles, 35.4 g | FC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4F4N2O
reactant | phosphorus tribromide | 199.5 mmoles, 54.0 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 4-bromomethyl-5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole | 31.4 g, yield: 80.8% | BrCC=1C(=NN(C1F)C)C(F)(F)F | C6H5BrF4N2
